US04954507
6-FLUORO-7-ETHYLTHIO-1,4-DIHYDRO-1-(1,1-DIMETHYLETHYL)-4-OXO-1,8-NAPHTHYRIDINE-3-CARBOXYLIC ACID ETHYL ESTER
Acetone (90 mL) was added to a mixture of 1.96 g (6 mmoles) of 6-fluoro-7-chloro-1-(1,1-dimethylethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester and 2.5 g (18 mmoles) of anhydrous potassium carbonate. To this suspension was added 1.33 mL (18 mmoles) of ethanethiol. After heating to reflux for 2.5 hours, the solvent was eliminated in vacuo. The residue was taken up with ethylacetate and water. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. The resulting solid was treated with ether to give 1.67 g of titled compound. MP 159°-60° C.

reactant | Acetone | 90 mL | CC(=O)C | C3H6O
reactant | 6-fluoro-7-chloro-1-(1,1-dimethylethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 6 mmoles, 1.96 g | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)Cl)C(C)(C)C | C15H16ClFN2O3
reactant | potassium carbonate | 18 mmoles, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanethiol | 18 mmoles, 1.33 mL | C(C)S | C2H6S
solvent | water | O | H2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 6-FLUORO-7-ETHYLTHIO-1,4-DIHYDRO-1-(1,1-DIMETHYLETHYL)-4-OXO-1,8-NAPHTHYRIDINE-3-CARBOXYLIC ACID ETHYL ESTER | 1.67 g | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)SCC)C(C)(C)C | C17H21FN2O3S
